US04994363
Step 3: synthesis of N-methyl-N-octadecyl-α-bromomethyl-4-nitrocinnamic acid amide
18 g of N-bromosuccinic acid imide and 0.5 g of benzoyl peroxide were added to a solution of 47 g of N-methyl-N-octadecyl-α-methyl-4-nitrocinnamic acid amide in 400 ml of carbon tetrachloride. The mixture was gradually heated from room temperature under reflux for about 1 hour. The mixture was heated under reflux for 10 hours while being irradiated with light from an incandescent lamp, and then allowed to cool. After the solvent was distilled off under reduced pressure, the residue was then subjected to silica gel column chromatography. The desired substance was obtained from a fraction extracted with a 1:2 mixture of hexane and ethyl acetate. (Yield: 23 g (42%))

reactant | N-bromosuccinic acid imide | 18 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-methyl-N-octadecyl-α-methyl-4-nitrocinnamic acid amide | 47 g | CN(C(C(=CC1=CC=C(C=C1)[N+](=O)[O-])C)=O)CCCCCCCCCCCCCCCCCC | C29H48N2O3
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-methyl-N-octadecyl-α-bromomethyl-4-nitrocinnamic acid amide | CN(C(C(=CC1=CC=C(C=C1)[N+](=O)[O-])CBr)=O)CCCCCCCCCCCCCCCCCC | C29H47BrN2O3
